US06521643B1
To a solution of N,N′-bis(tert-butoxycarbonyl)-N″-(2-fluoro-5-(4-methoxypyridin-2-yl)phenyl)guanidine (0.2 g) in dichloromethane (2 ml) was added a solution of hydrogen chloride in 1,4-dioxane (4N, 4 ml), and the mixture was stirred at room temperature for 24 hours. The solvent was evaporated under reduced pressure. To the residue was added 5% ethanol in ethyl acetate (100 ml), and the resultant precipitate was collected by filtration and dried under reduced pressure to give (2-fluoro-5-(4-methoxypyridin-2-yl)phenyl)guanidine dihydrochloride (143 mg).

reactant | N,N′-bis(tert-butoxycarbonyl)-N″-(2-fluoro-5-(4-methoxypyridin-2-yl)phenyl)guanidine | 0.2 g | C(C)(C)(C)OC(=O)NC(=NC1=C(C=CC(=C1)C1=NC=CC(=C1)OC)F)NC(=O)OC(C)(C)C | C23H29FN4O5
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 4N, 4 ml | O1CCOCC1 | C4H8O2
product | (2-fluoro-5-(4-methoxypyridin-2-yl)phenyl)guanidine dihydrochloride | 143 mg | Cl.Cl.FC1=C(C=C(C=C1)C1=NC=CC(=C1)OC)NC(=N)N | InChI=1S/C13H13FN4O.2ClH/c1-19-9-4-5-17-11(7-9)8-2-3-10(14)12(6-8)18-13(15)16;;/h2-7H,1H3,(H4,15,16,18);2*1H
